US07696229B2
A solution of 6-bromo-1H-indole (300 mg, 1.53 mmol) in DMSO (2 mL) was placed in a 10 mL sealed tube and sparged with nitrogen. Pyrrolidine (1.09 g, 15.33 mmol) was then added, followed by the addition of cesium carbonate (1 g, 3.07 mmol), copper (I) iodide (30 mg, 0.16 mmol), and L-proline (200 mg, 1.74 mmol). The resulting solution was stirred for 20 hours at 94° C. The reaction mixture was then quenched by the addition of iced water (30 mL). The resulting solution was extracted with ethyl acetate (3×100 mL) and the organic layers were combined, dried (MgSO4) and concentrated. The residue was purified by column chromatography using a 1:2 ethyl acetate/petroleum ether solvent system to give 160 mg (47%) of 6-(pyrrolidin-1-yl)-1H-indole as a tan crystalline solid.

reactant | 6-bromo-1H-indole | 1.53 mmol, 300 mg | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | Pyrrolidine | 15.33 mmol, 1.09 g | N1CCCC1 | C4H9N
reactant | cesium carbonate | 3.07 mmol, 1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | L-proline | 1.74 mmol, 200 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 0.16 mmol, 30 mg | [Cu]I
product | 6-(pyrrolidin-1-yl)-1H-indole | 160 mg, 47% | N1(CCCC1)C1=CC=C2C=CNC2=C1 | C12H14N2
